US04243819
Following the procedure of Example 38, 3-fluoro-4-trifluoromethylaniline is reacted with the sodium salt of α-bromoisovaleric acid to yield N-(3-fluoro-4-trifluoromethylphenyl)valine, which is esterifed to yield the m-phenoxybenzyl ester of N-(3-fluoro-4-trifluoromethylphenyl)valine.

reactant | 3-fluoro-4-trifluoromethylaniline | FC=1C=C(N)C=CC1C(F)(F)F | C7H5F4N
reactant | sodium | [Na] | Na
reactant | α-bromoisovaleric acid | BrC(C(=O)O)C(C)C | C5H9BrO2
product | N-(3-fluoro-4-trifluoromethylphenyl)valine | FC=1C=C(C=CC1C(F)(F)F)N[C@@H](C(C)C)C(=O)O | C12H13F4NO2
